### PR TITLE
[Merged by Bors] - feat: establish Jensen's Formula

### PR DESCRIPTION
**Pull request by kebekus**
Establish Jensen's formula of complex analysis.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. The formula established here is the last missing ingredient in the first main theorem of value distribution theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 1]
```diff
@@ -0,0 +1,151 @@
...
+/--
+Let `D : ℂ → ℤ` be a function with locally finite support within the closed ball with center `c` and
+radius `R`, such as the zero- and pole divisor of a meromorphic function.  Then, the circle average
+of the associated factorized rational function over the boundary of the ball equals
+`∑ᶠ u, (D u) * log R`.
+-/
+@[simp]
+lemma circleAverage_log_norm_factorizedRational {R : ℝ} {c : ℂ}
+    (D : Function.locallyFinsuppWithin (closedBall c |R|) ℤ) :
+    circleAverage (∑ᶠ u, ((D u) * log ‖· - u‖)) c R = ∑ᶠ u, (D u) * log R := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
    circleAverage (∑ᶠ u, (D u * log ‖· - u‖)) c R = ∑ᶠ u, D u * log R := by
```
Things are often easier to read with less distracting parentheses.

Same thing below in the proof.

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 2]
```diff
@@ -0,0 +1,151 @@
...
+/-!
+## Circle Averages
+
+In preparation to the proof of Jensen's formula, compute several circle averages.
+-/
+
+/--
+Let `D : ℂ → ℤ` be a function with locally finite support within the closed ball with center `c` and
+radius `R`, such as the zero- and pole divisor of a meromorphic function.  Then, the circle average
+of the associated factorized rational function over the boundary of the ball equals
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]: of the norm of the logarithm of the ... ?

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 3]
```diff
@@ -0,0 +1,151 @@
...
+    intro u
+    aesop
+
+/--
+If  `g : ℂ → ℂ` is analytic without zero on the closed ball with center `c` and radius `R`, then the
+circle average `circleAverage (log ‖g ·‖) c R` equals `log ‖g c‖`.
+-/
+@[simp]
+lemma AnalyticOnNhd.circleAverage_log_norm_nonVanishing {R : ℝ} {c : ℂ} {g : ℂ → ℂ}
+    (h₁g : AnalyticOnNhd ℂ g (closedBall c |R|)) (h₂g : ∀ u : closedBall c |R|, g u ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
    (h₁g : AnalyticOnNhd ℂ g (closedBall c |R|)) (h₂g : ∀ u ∈ closedBall c |R|, g u ≠ 0) :
```
Better avoid subtypes when not strictly necessary.

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 4]
```diff
@@ -0,0 +1,151 @@
...
+    circleAverage (Real.log ‖g ·‖) c R = Real.log ‖g c‖ :=
+  HarmonicOnNhd.circleAverage_eq (fun x hx ↦ (h₁g x hx).harmonicAt_log_norm (h₂g ⟨x, hx⟩))
+
+/-!
+## Jensen's Formula
+-/
+
+/-!
+**Jensen's Formula**: If `f : ℂ → ℂ` is meromorphic on the closed ball with center `c` and radius
+`R`, then the `circleAverage (log ‖f ·‖) 0 R` equals `log `‖meromorphicTrailingCoeffAt f 0‖` plus a
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
`R`, then the `circleAverage (log ‖f ·‖) c R` equals `log ‖meromorphicTrailingCoeffAt f c‖` plus a
```

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 5]
```diff
@@ -0,0 +1,151 @@
...
+correction term that accounts for the zeros and poles of `f` within the ball.
+-/
+theorem MeromorphicOn.circleAverage_log_norm {c : ℂ} {R : ℝ} {f : ℂ → ℂ} (hR : R ≠ 0)
+    (h₁f : MeromorphicOn f (closedBall c |R|)) :
+    circleAverage (log ‖f ·‖) c R
+      = ∑ᶠ u, divisor f (closedBall c |R|) u * log (R * ‖c - u‖⁻¹)
+        + divisor f (closedBall c |R|) c * log R + log ‖meromorphicTrailingCoeffAt f c‖ := by
+  -- Shorthand notation to keep line size in check
+  let CB := closedBall c |R|
+  by_cases h₂f : ∀ u : CB, meromorphicOrderAt f u ≠ ⊤
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]: Please also avoid subtypes here.

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 6]
```diff
@@ -0,0 +1,151 @@
...
+Jensen's Formula, formulated in `MeromorphicOn.circleAverage_log_norm` below, generalizes this to
+the setting where `g` is merely meromorphic. In that case, the `circleAverage (log ‖g ·‖) 0 R`
+equals `log `‖meromorphicTrailingCoeffAt g 0‖` plus a correction term that accounts for the zeros
+and poles of `g` within the ball.
+-/
+
+open Filter MeromorphicAt MeromorphicOn Metric Real
+
+variable
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E]
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
```
Unused?

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 7]
```diff
@@ -0,0 +1,151 @@
...
+import Mathlib.Analysis.Complex.ValueDistribution.CountingFunction
+import Mathlib.Analysis.SpecialFunctions.Integrals.PosLogEqCircleAverage
+
+/-!
+# Jensen's Formula of Complex Analysis
+
+If a function `g : ℂ → ℂ` is analytic without zero on the closed ball with center `c` and radius
+`R`, then `log ‖g ·‖` is harmonic, and the mean value theorem of harmonic functions asserts that the
+circle average `circleAverage (log ‖g ·‖) c R` equals `log ‖g c‖`.  Note that `g c` equals
+`meromorphicTrailingCoeffAt f c` and see `circleAverage_nonVanishAnalytic` for the precise
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
`meromorphicTrailingCoeffAt g c` and see `circleAverage_nonVanishAnalytic` for the precise
```

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 8]
```diff
@@ -0,0 +1,151 @@
...
+statement.
+
+Jensen's Formula, formulated in `MeromorphicOn.circleAverage_log_norm` below, generalizes this to
+the setting where `g` is merely meromorphic. In that case, the `circleAverage (log ‖g ·‖) 0 R`
+equals `log `‖meromorphicTrailingCoeffAt g 0‖` plus a correction term that accounts for the zeros
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
the setting where `g` is merely meromorphic. In that case, the `circleAverage (log ‖g ·‖) c R`
equals `log `‖meromorphicTrailingCoeffAt g c‖` plus a correction term that accounts for the zeros
```

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 9]
```diff
@@ -0,0 +1,151 @@
...
+    rw [finsum_eq_sum_of_support_subset]
+    intro u
+    aesop
+
+/--
+If  `g : ℂ → ℂ` is analytic without zero on the closed ball with center `c` and radius `R`, then the
+circle average `circleAverage (log ‖g ·‖) c R` equals `log ‖g c‖`.
+-/
+@[simp]
+lemma AnalyticOnNhd.circleAverage_log_norm_nonVanishing {R : ℝ} {c : ℂ} {g : ℂ → ℂ}
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/JensenFormula.lean]:
```suggestion
lemma AnalyticOnNhd.circleAverage_log_norm_of_ne_zero {R : ℝ} {c : ℂ} {g : ℂ → ℂ}
```
Better not be too creative in lemma names. Also, this change should be reflected in the file-level docstring.

File: Mathlib/Analysis/Complex/JensenFormula.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/JensenFormula.lean]: Done

File: Mathlib/Analysis/Complex/JensenFormula.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/JensenFormula.lean]: Done.

File: Mathlib/Analysis/Complex/JensenFormula.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/JensenFormula.lean]: Done

File: Mathlib/Analysis/Complex/JensenFormula.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/JensenFormula.lean]: done.

**Comment by loefflerd** [comment]
I am removing myself as reviewer from this PR, not because I disapprove of it – it looks like a really nice contribution – but because Sebastien has clearly reviewed it very thoroughly already and I defer to his greater expertise.

**Review by sgouezel — COMMENTED** [review]
bors r+
Thanks!
